US07253169B2
Synthesis of 4-Phenylbutyl 2-[benzylsulfonyl]-perhydropyridazinecarboxylate (Compound 106)
A solution of α-toluene sulfonyl chloride (1.12 g, 5.77 mmol) in CH2Cl2 was added to a CH2Cl2 solution containing 4-phenylbutyl perhydropyridazinecarboxylate (1.37 g, 5.2 mmol) and triethylamine (0.83 ml, 6 mmol). The reaction was stirred overnight at room temperature under nitrogen atmosphere, and then diluted to 50 ml CH2Cl2. The organic layer was washed with water, dried, and concentrated. The crude material was purified by silica gel column to yield 1.4 g (64%) final product as clear oil. Rf=0.60 (2:1 hexane:EtOAc). 1H NMR (CDCl3, 400 MHz): δ 1.68 (m, 8H); 2.67 (m, 2H); 2.90 (m, 1H); 3.38 (m, 2H); 4.22 (m, 5H); 7.32 (m, 10H). Anal. Calcd. for C22H28N2S1O4: C, 63.44; H, 6.78; N, 6.73, S, 7.70. Found: C, 63.86; H, 6.83; N, 6.41, S, 7.58.

reactant | α-toluene sulfonyl chloride | 5.77 mmol, 1.12 g | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
reactant | 4-phenylbutyl perhydropyridazinecarboxylate | 5.2 mmol, 1.37 g | N1NC(CCC1)C(=O)OCCCCC1=CC=CC=C1 | C15H22N2O2
reactant | triethylamine | 6 mmol, 0.83 ml | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-Phenylbutyl 2-[benzylsulfonyl]-perhydropyridazinecarboxylate | 1.4 g, 64% | C(C1=CC=CC=C1)S(=O)(=O)N1NCCCC1C(=O)OCCCCC1=CC=CC=C1 | C22H28N2O4S
